US03931269
To 0.0476 moles of ethyl 6-methoxy- 2-naphthylglycolate there is added slowly with stirring at 40°-50°C 23 g. (0.053 moles) of phosphorus pentabromide. The mixture is stirred at room temperature for 16 hours, then diluted with 70 ml. of petroleum ether, and poured into 125 ml. of ice-cold water. The organic phase is separated, washed with saturated aqueous sodium hydrogen carbonate solution, dried over anhydrous sodium sulfate, filtered and the solvent removed in vacuo to obtain ethyl α-bromo-6-methoxy-2-naphthylacetate.

reactant | ethyl 6-methoxy- 2-naphthylglycolate | 0.0476 moles | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)OCC)O | C15H16O4
reactant | phosphorus pentabromide | 0.053 moles | P(Br)(Br)(Br)(Br)Br | Br5P
product | ethyl α-bromo-6-methoxy-2-naphthylacetate | BrC(C(=O)OCC)C1=CC2=CC=C(C=C2C=C1)OC | C15H15BrO3
